US07754747B2
Step 2: ({6-[2-(2-Butyl-1-benzofuran-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)acetic acid.
A mixture of methyl ({6-[2-(2-butyl-1-benzofuran-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)acetate (295 mg, 0.647 mmol), prepared in the previous step, and 1N NaOH (1.3 mL, 1.3 mmol) in 35 mL of THF and 20 mL of H2O was stirred under nitrogen at room temperature for 14 h (overnight). The reaction was acidified by the addition of 1.4 mL of 1N HCl and then concentrated under reduced pressure to remove the THF. The yellow solid that formed was collected by filtration, rinsed with water and dried under reduced pressure to give the title compound (237 mg, 93%) as a yellow solid, mp 214-216° C. Elemental Analysis for C27H23NO5 Calc'd: C, 73.46; H, 5.25; N, 3.17. Found: C, 73.00; H, 5.49; N, 3.02.

reactant | methyl ({6-[2-(2-butyl-1-benzofuran-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)acetate | 0.647 mmol, 295 mg | C(CCC)C=1OC2=C(C1C=1OC(=CN1)C=1C=C3C=CC(=CC3=CC1)OCC(=O)OC)C=CC=C2 | C28H25NO5
reactant | NaOH | 1.3 mmol, 1N, 1.3 mL | [OH-].[Na+]
reactant | HCl | 1N, 1.4 mL | Cl | ClH
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | H2O | 20 mL | O | H2O
product | ({6-[2-(2-Butyl-1-benzofuran-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)acetic acid | 237 mg, 93% | C(CCC)C=1OC2=C(C1C=1OC(=CN1)C=1C=C3C=CC(=CC3=CC1)OCC(=O)O)C=CC=C2 | C27H23NO5
